US06518423B1
Ethyl 4-[1-[(10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl]carbamoyl]piperidin-4-yl]-2-methylbutanoate
To a solution of 0.7 g of 10H-pyrazino[2,3-b][1,4]benzothiazine-8-acetic acid in tetrahydrofuran (50 ml) were added 0.35 ml of triethylamine and 0.55 ml of diphenyl phosphate azide and the resulting mixture was stirred at room temperature for 3 hours. Next, it was heated under reflux for 1.5 hours. After adding 0.55 g of ethyl 4-(piperidin-4-yl)-2-methylbutanoate, the resulting mixture was reacted at room temperature for 1 hour. After adding ethyl acetate, the reaction mixture was washed with water and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 0.66 g of the title compound as a yellow oily substance.

reactant | 10H-pyrazino[2,3-b][1,4]benzothiazine-8-acetic acid | 0.7 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=O)O | C12H9N3O2S
reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphate azide | 0.55 ml | [N-]=[N+]=[N-].P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | ethyl 4-(piperidin-4-yl)-2-methylbutanoate | 0.55 g | N1CCC(CC1)CCC(C(=O)OCC)C | C12H23NO2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-[1-[(10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl]carbamoyl]piperidin-4-yl]-2-methylbutanoate | 0.66 g | COCN1C2=C(SC3=C1C=C(C=C3)CNC(=O)N3CCC(CC3)CCC(C(=O)OCC)C)N=CC=N2 | C26H35N5O4S
